US07417054B2
2-Methyl-4-phenyl-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-[2,6]-naphthyridine
6-Methyl-8-phenyl-5,6,7,8-tetrahydro-2H-[2,6]naphthyridin-3-one. A 0° C. solution of 7-methoxy-2-methyl-4-phenyl-1,2,3,4-tetrahydro-[2,6]naphthyridine (74.5 mg, 0.293 mmol) in CH3CN (1 mL) was treated with TMSCl (1 mL) and NaI (˜10 mg). The resulting mixture was stirred at 0° C. for 30 min, then at 50° C. for 18 h. The mixture was concentrated, diluted with satd. aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated. 1H NMR indicated ˜30% conversion to the desired product. The material was diluted with CH3CN (2 mL), treated with TMSCl (1 mL) and NaI (˜10 mg) and heated at 60° C. for 18 h. The mixture was concentrated, neutralized with satd. aq. NaHCO3 and extracted with DCM. The organic layer was dried and concentrated. The crude mixture was chromatographed (SiO2; 1-10% 2 M NH3 in MeOH/DCM) to give the title compound (29.6 mg, 42%). 1H NMR (CDCl3): 7.33-7.23 (m, 3H), 7.20-7.16 (m, 2H), 6.83 (s, 1H), 6.26 (s, 1H), 4.06-4.00 (m, 1H), 3.73 (d, J=15.9, 1H), 3.40 (d, J=15.2, 1H), 3.03-2.97 (m, 1H), 2.46 (dd, J=11.6, 10.0, 1H), 2.41 (s, 3H).

reactant | 6-Methyl-8-phenyl-5,6,7,8-tetrahydro-2H-[2,6]naphthyridin-3-one | CN1CC2=CC(NC=C2C(C1)C1=CC=CC=C1)=O | C15H16N2O
reactant | 7-methoxy-2-methyl-4-phenyl-1,2,3,4-tetrahydro-[2,6]naphthyridine | 0.293 mmol, 74.5 mg | COC1=NC=C2C(CN(CC2=C1)C)C1=CC=CC=C1 | C16H18N2O
reactant | TMSCl | 1 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | NaI | ˜10 mg | [Na+].[I-]
solvent | CH3CN | 1 mL | CC#N | C2H3N
product | 2-Methyl-4-phenyl-7-(3-piperidin-1-yl-propoxy)-1,2,3,4-tetrahydro-[2,6]-naphthyridine | 29.6 mg, 42% | CN1CC2=CC(=NC=C2C(C1)C1=CC=CC=C1)OCCCN1CCCCC1 | C23H31N3O
